US08022062B2
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (150 mg, 0.39 mmol) in methanol (10 mL) and add potassium hydroxide (0.7 g, 12.47 mmol). Heat at 60° C. for 4 h. Cool the reaction mixture to ambient temperature, add aqueous saturated ammonium chloride and concentrate in vacuo. Partition the residue between EtOAc and water. Dry the organic phase over anhydrous Na2SO4 and concentrate in vacuo to give 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.12 g). Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.12 g, 5.2 mmol) in anhydrous DMSO (6 mL) and add triethylamine (0.325 mL, 2.34 mmol) and 4-(pyridine-3-carbonyl)-benzyl methanesulfonate (114 mg, 0.39 mmol). Heat the solution at 40° C. overnight. Cool to ambient temperature, dilute the mixture with hexane/EtOAc (1:1, 100 mL), and wash the organic solution sequentially with brine and ice-cold water. Dry the organic layer over anhydrous Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (1:1) to give 3-tert-butoxycarbonyl-7-chloro-6-[4-(pyridine-3-carbonyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as oil (123 mg, 64%).

reactant | 3-tert-butoxycarbonyl-7-chloro-6mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 5.2 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)S | C15H20ClNO2S
reactant | triethylamine | 2.34 mmol, 0.325 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(pyridine-3-carbonyl)-benzyl methanesulfonate | 0.39 mmol, 114 mg | CS(=O)(=O)OCC1=CC=C(C=C1)C(=O)C=1C=NC=CC1 | C14H13NO4S
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | hexane EtOAc | 100 mL | CCCCCC.CCOC(=O)C
product | 3-tert-butoxycarbonyl-7-chloro-6-[4-(pyridine-3-carbonyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 123 mg, 64% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)C(=O)C=2C=NC=CC2 | C28H29ClN2O3S
